US07442713B2
100 ml of HCl 10% are added to 2-{2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]ethyl}isoindole-1,3-dione (2 mmol/0.917 g), and the mixture is stirred at room temperature for 6 h. The mixture is then slowly neutralized using 2N NaOH, resulting in the precipitation of 2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]ethylamine as a white crystalline powder. The precipitate is filtered off with suction and washed with a little ice-cold water and dried over P2O5.

reactant | 2-{2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]ethyl}isoindole-1,3-dione | 2 mmol, 0.917 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)C)SCCN1C(C2=CC=CC=C2C1=O)=O | C25H19FN4O2S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | HCl | 100 ml | Cl | ClH
product | 2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]ethylamine | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)C)SCCN | C17H17FN4S
